US08648066B2
5-Bromo-2-chloro-3-nitropyridine (J. Heterocyclic Chem. 2003, 40, 261) (128 mg, 0.54 mmol) was taken into THF (0.25 mL) followed by addition of 40 W % aqueous dimethylamine (0.25 mL) and the resulting solution was stirred for 1 h at room temperature. The mixture was then partitioned with ethyl ether and 1 M aqueous hydrochloric acid. The organic solution was then washed with additional 1 M aqueous hydrochloric acid (3×) then dried over magnesium sulfate, filtered and concentrated to give 5-bromo-N,N-dimethyl-3-nitropyridin-2-amine. MS (EI) for C7H8N3O2Br: 246, 248 (MH+, Br pattern).

reactant | 5-Bromo-2-chloro-3-nitropyridine | 0.54 mmol, 128 mg | BrC=1C=C(C(=NC1)Cl)[N+](=O)[O-] | C5H2BrClN2O2
reactant | dimethylamine | 0.25 mL | CNC | C2H7N
solvent | THF | 0.25 mL | C1CCOC1 | C4H8O
product | 5-bromo-N,N-dimethyl-3-nitropyridin-2-amine | BrC=1C=C(C(=NC1)N(C)C)[N+](=O)[O-] | C7H8BrN3O2
